US08623896B2
To a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid methyl ester (Example I13) (4.3 g) in tetrahydrofuran (3 ml) and methanol (3 ml) was added a solution of potassium hydroxide (1.0 g) in water (4.0 ml). The reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was acidified by addition of hydrochloric acid (2M) (200 ml) and the mixture extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated. The residue was re-crystallized from dichloromethane and heptane to give 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid (3.58 g) as a white powder. 1H-NMR (CDCl3, 400 MHz): 8.08-7.45 (m, 6H), 4.14 (d, 1H), 3.76 (d, 1H).

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid methyl ester | 4.3 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C(F)(F)F)=O | C19H11Cl2F6NO3
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | 2M, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 4.0 ml | O | H2O
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-trifluoromethyl-benzoic acid | 3.58 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C18H9Cl2F6NO3
